US04025626
7-(2,2,2-Trifluoroethylsulfinylacetamido)-3-[1-(2-ureidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid
A suspension of 4.0 g. (0.01 mol.) of 7-amino-3-[1-(2-ureidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid in 50 ml. of dry dimethylformamide is treated with 2 ml. of triethylamine and the mixture is stirred for 15 minutes at 25°. A slight excess of 0.01 mol. of the activated ester of 2,2,2-trifluoroethylsulfinylacetic acid is added to the mixture and it is stirred an additional hour. The reaction mixture is evaporated to dryness and water and ethyl acetate are added to the residue. The layers are separated, the ethyl acetate layer is discarded, fresh ethyl acetate is added to the aqueous phase and it is acidified to pH 2.5 by addition of 6N hydrochloric acid. The mixture is filtered, the layers are separated and the aqueous phase is extracted with ethyl acetate. The combined extracts are washed with water, dried (MgSO4) and evaporated to dryness to give the title compound.

reactant | 7-amino-3-[1-(2-ureidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 0.01 mol | NC1[C@@H]2N(C(=C(CS2)C(CCNC(=O)N)SC2=NN=NN2)C(=O)O)C1=O | C12H16N8O4S2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2,2,2-trifluoroethylsulfinylacetic acid | FC(CS(=O)CC(=O)O)(F)F | C4H5F3O3S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-(2,2,2-Trifluoroethylsulfinylacetamido)-3-[1-(2-ureidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | FC(CS(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(CCNC(=O)N)SC2=NN=NN2)C(=O)O)C1=O)(F)F | C16H19F3N8O6S3
